US08349849B2
tert-Butyl (R)-2-((S)-6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-2-yl)-1-(phosphonooxy)propan-2-ylcarbamate (22.0 mg, 0.0000362 mol) was dissolved in trifluoroacetic Acid (1.0 mL, 0.013 mol) and methylene chloride (1.0 mL, 0.016 mol) was added and the mixture was stirred for 1 h. Concentration and lypholyzing gave pure (R)-2-amino-2-((S)-6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-2-yl)propyl dihydrogen phosphate as a white solid (18.0 mg, 98%). LCMS: Rf=1.74min 508.41 [M+1]. 1H NMR (400 MHz, MeOD) δ=7.25 (d, J=9.0 Hz, 1H), 7.00 (d, J=8.6 Hz, 1H), 4.23 (dd, J=4.9, 11.2 Hz, 1H), 4.18 (m, 1H), 4.03 (dd, J=4.1, 11.3 Hz, 1H), 3.22-2.82 (m, 3H), 2.77-2.64 (m, 1H), 2.15 (d, J=12.6 Hz, 2H), 2.02 (d, J=10.6 Hz, 1H), 1.87 (d, J=13.2 Hz, 2H), 1.56-1.35 (m, 2H), 1.33 (s, 3H), 1.24-1.01 (m, 2H), is 0.89 (s, 9H).

reactant | tert-Butyl (R)-2-((S)-6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-2-yl)-1-(phosphonooxy)propan-2-ylcarbamate | 0.0000362 mol, 22.0 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2CC[C@@H](CC2=CC1)[C@@](COP(=O)(O)O)(C)NC(OC(C)(C)C)=O)C(F)(F)F | C29H45F3NO7P
reactant | trifluoroacetic Acid | 0.013 mol, 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 0.016 mol, 1.0 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-2-((S)-6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-2-yl)propyl dihydrogen phosphate | 18.0 mg, 98% | P(=O)(OC[C@@](C)([C@@H]1CC2=CC=C(C(=C2CC1)C(F)(F)F)O[C@@H]1CC[C@H](CC1)C(C)(C)C)N)(O)O | C24H37F3NO5P
